US08026356B2
Stavudine-DMPU solvate (25 g, 0.07 moles), water (5 g) and isopropanol (250 ml) are heated to about 82° C. to get clear colorless solution. Heating is continued so as to distill the solution at atmospheric pressure until about 80 ml of isopropanol remained in side. The solution is allowed to cool on its own. The mixture is further cooled to 0-5° C. for 1.5 hrs. The precipitated product is filtered, washed with isopropanol (2×10 ml) and air dried to give 13.9 g (87.2%) of pure white crystalline Stavudine. The HPLC results are given in Table 2.

reactant | Stavudine DMPU | 0.07 moles, 25 g | CC1=CN(C(=O)NC1=O)[C@H]2C=C[C@H](O2)CO.CN1CCCN(C1=O)C
reactant | water | 5 g | O | H2O
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | 2′,3′-didehydro-3′-deoxythymidine | 13.9 g, 87.2% | [C@@H]1(C=C[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H12N2O4
